US07488494B2
A mixture of 4′,7-dihydroxy-5-methylisoflavone (1.51 g, 5.6 mmol), acetic anhydride (9 ml) and pyridine (1.7 ml) was heated in an oil bath at 105-110° C. for 1 h. After cooling the mixture to room temperature, it was stirred for a further 30 min during which time the diacetate crystallised from the solution. The product was filtered, washed thoroughly with water and recrystallised from methanol to yield 4′,7-diacetoxy-5-methylisoflavone as colourless prisms (1.8 g, 91%). m.p. 195-97° C., 1H NMR (CDCl3): δ 2.32 (s, 3H, OCOCH3), 2.35 (s, 3H, OCOCH3), 2.87 (s, 3H, Me), 6.92 (bs, 1H, H8), 7.12 (bs, 1H, H5), 7.16 (d, 2H, J 8.7 Hz, ArH), 7.55 (d, 2H, J 8.7 Hz, ArH), 7.89 (s, 1H, H2).

reactant | 4′,7-dihydroxy-5-methylisoflavone | 5.6 mmol, 1.51 g | OC1=CC=C(C2=COC3=CC(=CC(=C3C2=O)C)O)C=C1 | C16H12O4
reactant | acetic anhydride | 9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
solvent | pyridine | 1.7 ml | N1=CC=CC=C1 | C5H5N
product | 4′,7-diacetoxy-5-methylisoflavone | 1.8 g, 91% | C(C)(=O)OC1=CC=C(C2=COC3=CC(=CC(=C3C2=O)C)OC(C)=O)C=C1 | C20H16O6
